US05679696
A solution of oxalyl chloride (5.3 mL) in dry dichloromethane (125 mL) at -60° C. is treated portionwise with dimethyl sulfoxide (9.1 mL) in dichloromethane (20 mL), keeping the temperature below -50° C. The solution is then stirred at -70° C. for 20 minutes and is then treated with a suspension of 1-(3-cyclopentyloxy-4-methoxyphenyl)-2-(3,5-dichloropyrid-4-yl)ethanol (20.5 g; that is prepared as described in Reference Example 63) in dry dichloromethane (300 mL) during 20 minutes, keeping the temperature below -50° C. After stirring for 30 minutes, the solution is treated with triethylamine (35 mL) and allowed to rise to room temperature. It is then treated with water (250 mL) and extracted with ethyl acetate (2×100 mL). The combined organic extracts are washed with dilute sulfuric acid (100 mL; 1%), aqueous potassium carbonate solution (100 ml; 5%) and brine (100 mL), dried and concentrated and the resulting residue is recrystallized from a mixture of ethyl acetate and heptane, to give 3-cyclopentyloxy-4-methoxyphenyl 3,5-dichloropyrid-4-ylmethyl ketone (19.6 g), m.p. 119°-120° C. [NMR(CDCl3): 8.52(s,2H),7.69 (dd, 1H,J=8 Hz),7.57(d, 1 H,J=2 Hz),6.95(d, 1H,J=8 Hz),4.86 (m, 1H),4.64(s,2H), 3.95(s,3H),2.05°-1.58(m,8H). Elemental analysis: C,59.8,H,4.95,N,3.63%; calculated: C,60.0, H,5.0,N,3.7%].

reactant | oxalyl chloride | 5.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 9.1 mL | CS(=O)C | C2H6OS
reactant | 1-(3-cyclopentyloxy-4-methoxyphenyl)-2-(3,5-dichloropyrid-4-yl)ethanol | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC1=C(C=NC=C1Cl)Cl)O | C19H21Cl2NO3
reactant | triethylamine | 35 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 125 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | water | 250 mL | O | H2O
product | 3-cyclopentyloxy-4-methoxyphenyl 3,5-dichloropyrid-4-ylmethyl ketone | 19.6 g | ClC=1C=NC=C(C1CC(=O)C1=CC(=C(C=C1)OC)OC1CCCC1)Cl | C19H19Cl2NO3
